US05688808
To an oven-dried 1-L r.b. flask containing 1-tert-butyloxycarbamoyl-3-nitrobenzene (20.0 g, 83.9 mmol) in 500 mL 1:1 ethyl acetate/ethanol at rt was added 10% Pd on C (approx 1 mol %), and the mixture was stirred under an atmosphere of H2 gas for 6 h. The reaction mixture was then filtered, and concentrated under diminished pressure to give 17.4 g (quant of 3-tert-butyloxycarbamoylaniline as a white oily solid. Data for 3-tert-butyloxycarbamoylaniline: 1H NMR (400 MHz, CDCl3) 7.04 (t, J=8.0, 8.0, 1H, 5-H), 6.98 (br s, 1H, NH), 6.53 (dd, J=7.9, 1.8, 1H, 4-H), 6.36 (m, 2H, 6,2-H), 3.66 (br s, 2H, NH2), 1.51 [s, 9H, (CH3)3CO)].

reactant | 1-tert-butyloxycarbamoyl-3-nitrobenzene | 83.9 mmol, 20.0 g | C(C)(C)(C)ONC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H14N2O4
catalyst | Pd | [Pd] | Pd
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | 3-tert-butyloxycarbamoylaniline | C(C)(C)(C)ONC(=O)C=1C=C(N)C=CC1 | C11H16N2O2
